US07834031B2
tert-Butyl 4-cyano-4-pyridin-2-ylpiperidine-1-carboxylate (5.45 g, 19 mmol) was dissolved in TFA/CH2Cl2 (1:1, 50 mL) at 0° C. After stirring 40 min, the reaction mixture was concentrated under reduced pressure. The residue was diluted with 2 N NaOH in saturated aqueous NaCl (1:1, 80 mL) and extracted with EtOAc (5×200 mL). The combined extracts were washed with saturated aqueous NaCl, dried (MgSO4), and concentrated under reduced pressure to afford 4-pyridin-2-ylpiperidine-4-carbonitrile (3.55 g, 19 mmol) which was used immediately in subsequent reactions. A solution of 4-pyridin-2-ylpiperidine-4-carbonitrile (3.55 g, 19 mmol) in CH2Cl2 (50 mL) at 0° C. was treated with i-Pr2NEt (10 mL) and n-PrSO2Cl (2.24 mL, 21 mmol). After stirring for 1 h at 0° C., the reaction mixture was treated with 2 N NaOH and stirred vigorously for an additional 1 h, before being extracted with EtOAc (4×200 mL). The combined organic extracts were washed with saturated aqueous NaCl, dried (MgSO4), and concentrated under reduced pressure to afford 1-(propylsulfonyl)-4-pyridin-2-ylpiperidine-4-carbonitrile. This material was used in subsequent reactions without further purification.

reactant | 4-pyridin-2-ylpiperidine-4-carbonitrile | 19 mmol, 3.55 g | N1=C(C=CC=C1)C1(CCNCC1)C#N | C11H13N3
reactant | i-Pr2NEt | 10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | n-PrSO2Cl | 21 mmol, 2.24 mL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(propylsulfonyl)-4-pyridin-2-ylpiperidine-4-carbonitrile | C(CC)S(=O)(=O)N1CCC(CC1)(C#N)C1=NC=CC=C1 | C14H19N3O2S
